US07763731B2
4-(4-methyl-2-nitrophenoxy)phenol
A solution of hydroquinone (3.2 g, 29.0 mmol) and K2CO3 (8.0 g, 54.0 mmol) in 40 mL of DMF was heated at 100° C. with 1-fluoro-4-methyl-2-nitrobenzene (3.0 g, 19.3 mmol) with stirring for 24 hours. Cooled to room temperature and diluted with EtOAc. Washed with water and dried the organic layer over MgSO4. Filtered and concentrated under vacuum giving the title compound, which was purified by silica gel column chromatography eluting with 5% EtOAc/hexane giving an orange oil (1.89 g, 40%).

reactant | hydroquinone | 29.0 mmol, 3.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | K2CO3 | 54.0 mmol, 8.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-fluoro-4-methyl-2-nitrobenzene | 19.3 mmol, 3.0 g | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-methyl-2-nitrophenoxy)phenol | CC1=CC(=C(OC2=CC=C(C=C2)O)C=C1)[N+](=O)[O-] | C13H11NO4
